US06562828B1
Synthesis of 7-[1-(Pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamide Oxime Dihydrochloride
To a solution of 7-[1-(pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carbothioimidic acid methyl ester (135 mg) in ethanol (3 ml) were added hydroxyamine hydrochloride (47 mg) and sodium acetate (56 mg), and the mixture was stirred at 40° C. for 2 hours. After completion of the reaction, water was added and the mixture was washed with chloroform. Thereto was added 4N aqueous sodium hydroxide solution, and the mixture was extracted with chloroform. The organic layer was washed successively with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained solid was treated with hydrogen chloride—ethanol solution and dried under reduced pressure to give the title compound (82 mg).

reactant | 7-[1-(pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carbothioimidic acid methyl ester | 135 mg | CSC(=N)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C1=CC=NC=C1 | C22H28N4OS
reactant | hydroxyamine hydrochloride | 47 mg | Cl.ON
reactant | sodium acetate | 56 mg | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 7-[1-(Pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamide Oxime Dihydrochloride | 82 mg | Cl.Cl.N1=CC=C(C=C1)N1CCC(CC1)COC1=CC=C2CCN(CC2=C1)C(N)=NO | InChI=1S/C21H27N5O2.2ClH/c22-21(24-27)26-12-7-17-1-2-20(13-18(17)14-26)28-15-16-5-10-25(11-6-16)19-3-8-23-9-4-19;;/h1-4,8-9,13,16,27H,5-7,10-12,14-15H2,(H2,22,24);2*1H
